US06624304B1
A solution of sodium chlorodifluoroacetate (350 g) in diglyme (1400 mL) was added dropwise over 4 to 8 hours, preferably over 6 hours, to a solution of 5H-dibenzo[a,d]cyclo-hepten-5-one (25 g) in diglyme (500 mL), with stirring, and under nitrogen, maintaining the reaction temperature at 160°-165° C. The cooled reaction mixture was poured into water (1.8 L) and extracted with ether (1.8 L). The organic phase was washed with water, dried over sodium sulfate (Na2SO4), and evaporated. The residue was recrystallized from ethanol, then from acetone/hexane to give 14 g of 1,1-difluoro-1a,10b-dihydrodibenzo[a,e]cyclopropa[c]-cyclohepten-6(1H)-one.

reactant | sodium chlorodifluoroacetate | 350 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | 5H-dibenzo[a,d]cyclo-hepten-5-one | 25 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | water | 1.8 L | O | H2O
solvent | diglyme | 1400 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 500 mL | COCCOCCOC | C6H14O3
product | 1,1-difluoro-1a,10b-dihydrodibenzo[a,e]cyclopropa[c]-cyclohepten-6(1H)-one | 14 g | FC1(C2C3=C(C(C4=C(C21)C=CC=C4)=O)C=CC=C3)F | C16H10F2O
